US07138425B2
a) 2-(3-Aminophenyl)-5-chlorobenzoxazole
Prepared by the method of Example 1a), from 2-amino-4-chlorophenol (522 mg, 3.6 mmol) and 3-aminobenzoic acid (500 mg, 3.6 mmol) the subtitle compound was obtained, 114 mg (13%). 1H NMR (CDCl3) δ 7.81(bs, 1H), 7.69–7.60(m, 3H), 7.49(t, J=7.1 Hz), 7.41–7.27(m, 2H), 6.96(dd, J=2.6, 7.9 Hz, 1H). MS 245, 247 m/z (M+H)+.

reactant | 2-amino-4-chlorophenol | 3.6 mmol, 522 mg | NC1=C(C=CC(=C1)Cl)O | C6H6ClNO
reactant | 3-aminobenzoic acid | 3.6 mmol, 500 mg | NC=1C=C(C(=O)O)C=CC1 | C7H7NO2
product | 2-(3-Aminophenyl)-5-chlorobenzoxazole | NC=1C=C(C=CC1)C=1OC2=C(N1)C=C(C=C2)Cl | C13H9ClN2O
